US07531577B2
N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide, 1H-pyrazol-1-carboxamidine hydrochloride and diethyl isopropylamine are dissolved in DMF, and the reaction mixture is heated to 100° C., then cooled and diluted by addition of of water. The aqueous mixture is extracted with EtOAc, and the combined organic layers are dried over MgSO4, filtered, and concentrated under reduced pressure to give N-(5-Guanidinomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide. 5-Guanidinomethyl-5,6,7,8-tetrahydro-naphthalene-2-sulfonic acid phenylamide may be similarly prepared.

reactant | N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C17H20N2O2S
reactant | 1H-pyrazol-1-carboxamidine hydrochloride | Cl.N1(N=CC=C1)C(=N)N
reactant | diethyl isopropylamine | C(C)N(C(C)C)CC | C7H17N
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(5-Guanidinomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | N(C(=N)N)CC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C18H22N4O2S
